US04111923
(a) Nα -Benzyloxycarbonyl-L-tryptophyl-L-serine methyl ester
L-Serine methyl ester hydrochloride, 5 g., is dissolved in 75 ml. of dimethylformamide and the solution cooled in an ice bath. Triethylamine, 4.9 ml., is added then 11.9 g. of Nα -benzyloxycarbonyl-L-tryptophan, 5.25 g. of 1-hydroxybenztriazole and finally 8.0 g. of dicyclohexylcarbodiimide. The reaction is stirred with ice bath cooling overnight, allowing the temperature to rise to room temperature, then an additional twenty-four hours at room temperature. The mixture is filtered and the solid washed with dimethylformamide. The filtrate is evaporated under reduced pressure and the residue dissolved in ethyl acetate and washed with dilute hydrochloric acid, saturated salt solution, three times with 5% sodium bicarbonate solution, saturated salt solution, and finally with water. The ethyl acetate solution is then dried over magnesium sulfate and evaporated. The residue is crystallized from 250 ml. of benzene and then from ethyl acetate and petroleum ether; 12.5 g.; m.p. 133°-135° C.; [α]D23 -12.4° (c 2, methanol); ultraviolet in methanol λmax 290 E11 115; λmax 281 E11 131; λmax 274 E11 122.

reactant | L-Serine methyl ester hydrochloride | Cl.COC([C@@H](N)CO)=O
reactant | Nα -benzyloxycarbonyl-L-tryptophan | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C19H18N2O4
reactant | 1-hydroxybenztriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Nα -Benzyloxycarbonyl-L-tryptophyl-L-serine methyl ester | COC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O)CO)=O | C23H25N3O6
